US05254561
Step 1: 1-Hydroxy-1-methyl-2,3-dihydro-1H-indene
A solution of 25.05 g (0.190 mol) of 1-indanone in 250 ml of anhydrous ether was added over 45 min to a solution of 81.0 ml (0.243 mol) of 3.0M methyl magnesium bromide in ether under N2 whilst stirring magnetically. After completion of the addition, the reaction was heated to reflux for 40 min, allowed to cool, then quenched with 30 ml of saturated ammonium chloride solution. The ether layer was decanted from a white solid, washed with water (2×100 ml), then with saturated sodium chloride solution (100 ml), dried (K2CO3) and evaporated in vacuo to leave 24.64 g (88%) of the title product as an orange oil. NMR δ(CDCl3) 1.57 (3H, s), 2.16-2.24 (2H, m), 2.77-2.89 (1H, m), 2.97-3.09 (1H, m) 7.23-7.38 (4H, m).

reactant | 1-indanone | 0.190 mol, 25.05 g | C1(CCC2=CC=CC=C12)=O | C9H8O
reactant | methyl magnesium bromide | 0.243 mol, 3.0M, 81.0 ml | C[Mg]Br
solvent | ether | 250 ml | CCOCC | C4H10O
product | 1-Hydroxy-1-methyl-2,3-dihydro-1H-indene | 24.64 g, 88% | OC1(CCC2=CC=CC=C12)C | C10H12O
